US06436929B1
A mixture of 1-(4-amino-3′-chloro-biphenyl-3-yl)-1-benzyl-ethanol (prepared from 1-(4-amino-3′-chloro-biphenyl-3-yl)-ethanone and benzylmagnesium bromide according to procedure described previously, 0.14 g, 0.42 mmol) and triphosgene (0.04 g, 0.14 mmol) in dry TRF (10 mL) was stirred under a blanket of nitrogen for 10 minutes. THF was removed and the residue purified via flash chromatography (silica gel, 35% ethyl acetate/hexane) to give 4-benzyl-6-(3-chloro-phenyl)-4-methyl-1,4 -dihydro-benzo[d][1,3]oxazin-2-one (0.045 g, 30%) as an off-white solid: mp 187-188° C.; 1H-NMR (DMSO-d6) δ10.1 (s, 1H), 7.70 (t, 1H, J=2.3 Hz), 7.6 (d, 1H, J=8.0 Hz), 7.58-7.53 (m, 2H), 7.46 (t, 1H, J=8.0 Hz), 7.38 (d, 1H, J=8.0 Hz), 7.22-7.17 (m, 3H), 7.06-7.0 (m, 2H), 6.84 (d, 1H, J=9.14 Hz), 3.24 (d, 1H, J=14.3), 3.06 (d, 1H, J=14.3 Hz), 1.68 (s, 3H), MS (ESI) m/z 364 ([M+H]+,100%), Anal. Calc. For C22H18CINO2: C, 72.63; H, 4.99; N, 3.85. Found: C, 71.82; H, 5.09; N,3.58.

reactant | 1-(4-amino-3′-chloro-biphenyl-3-yl)-1-benzyl-ethanol | NC1=C(C=C(C=C1)C1=CC(=CC=C1)Cl)C(C)(O)CC1=CC=CC=C1 | C21H20ClNO
reactant | 1-(4-amino-3′-chloro-biphenyl-3-yl)-ethanone | NC1=C(C=C(C=C1)C1=CC(=CC=C1)Cl)C(C)=O | C14H12ClNO
reactant | benzylmagnesium bromide | C(C1=CC=CC=C1)[Mg]Br
reactant | triphosgene | 0.14 mmol, 0.04 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
product | 4-benzyl-6-(3-chloro-phenyl)-4-methyl-1,4 -dihydro-benzo[d][1,3]oxazin-2-one | 0.045 g, 30% | C(C1=CC=CC=C1)C1(C2=C(NC(O1)=O)C=CC(=C2)C2=CC(=CC=C2)Cl)C | C22H18ClNO2
